US06096741
To a solution of 15.0 g (103 mmol) of methyl 2-hydroxyiminoacetoacetate in 200 ml of acetone, 14.4 g (113 mmol) of benzyl chloride and 21.4 g (155 mmol) of potassium carbonate were added and the mixture was heated under reflux for 15 hours. The reaction mixture was combined with 200 ml of water and extracted three times with 200 ml of diethylether. After washing with water and a saturated aqueous sodium chloride followed by drying over with anhydrous magnesium sulfate, the solvent was distilled off. The residue thus obtained was purified by a column chromatography on a silica gel (n-hexane/ethyl acetate) to obtain 18.7 g (yield: 77%) of methyl 2-benzyloxyiminoacetoacetate as a colorless crystal.

reactant | methyl 2-hydroxyiminoacetoacetate | 103 mmol, 15.0 g | ON=C(C(=O)OC)C(=O)C | C5H7NO4
reactant | benzyl chloride | 113 mmol, 14.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 155 mmol, 21.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 200 ml | O | H2O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | methyl 2-benzyloxyiminoacetoacetate | 18.7 g, yield: 77% | C(C1=CC=CC=C1)ON=C(C(=O)OC)C(=O)C | C12H13NO4
